* 'func-1' check .func processing

* (exec-spice "ngspice -b %s")
* (tests-aux-renumber)


* ----------------------------------------
*   introduce some nodenames and instancenames
*     intentionally meant to collide with parameter names

vncol1  n 0  101.0
vncol2  p 0  102.0
vncol3  x 0  103.0

vp  1 0  105.0
rp  1 0  1.0

* ----------------------------------------
* arbitrary tests

.func foo0()  '1013.0'

v1001_t  n1001_t 0  '100*foo0()'
v1001_g  n1001_g 0  '101300.0'

.func bar1(p) 'p'

v1002_t  n1002_t 0  'bar1(117.0)'
v1003_t  n1003_t 0  '2*bar1(117.0+2.0)'

v1002_g  n1002_g 0  '117.0'
v1003_g  n1003_g 0  '238.0'

.func bar2(p) 'v(p)+p'

b1004_t  n1004_t 0  v = 'bar2(17.0)'
v1004_g  n1004_g 0  '119.0'

.func bar3(p) 'p+v(p)'

b1005_t  n1005_t 0  v = 'bar3(17.0)'
v1005_g  n1005_g 0  '119.0'

.func bar4(p) 'p+v(p)+p'

b1006_t  n1006_t 0  v = 'bar4(17.0)'
v1006_g  n1006_g 0  '136.0'

.func baz1(n,vp) 'n+i(vp)+vp'

b1007_t  n1007_t 0  v = 'baz1(17.0,10000)'
v1007_g  n1007_g 0  '9912'

.func baz2(p,n)  'v(p)+p+v(n)'

b1008_t  n1008_t 0  v = 'baz2(1000.0,1e20)'
v1008_g  n1008_g 0  '1203.0'

.func baz3(x)  'x+x'

v1009_t  n1009_t 0  '17*baz3(100.0)'
v1009_g  n1009_g 0  '3400.0'

.func moo1(x,p,n) 'x<p?p:n'
v1010_t  n1010_t 0  '10*moo1(2,3,5)'
v1010_g  n1010_g 0  '30'

v1011_t  n1011_t 0  '10*moo1(4,3,5)'
v1011_g  n1011_g 0  '50'

.func moo2(x,p,n) 'x<p?p:x>n?n:x'
v1012_t  n1012_t 0  '10*moo2(4,3,5)*100'
v1012_g  n1012_g 0  '4000'

v1013_t  n1013_t 0  '10*moo2(2,3,5)*100'
v1013_g  n1013_g 0  '3000'

v1014_t  n1014_t 0  '10*moo2(6,3,5)*100'
v1014_g  n1014_g 0  '5000'

* ----------------------------------------

.param xoo = 100
.func boing(a, xoo) 'a*xoo'

v1015_t  n1015_t 0  'boing(xoo,2)'
v1015_g  n1015_g 0  '200'

* ----------------------------------------

.control

define mismatch(a,b,err) abs(a-b)>err

op

let total_count = 0
let fail_count = 0

let tests = 1001 + vector(15)

foreach n $&tests
  set n_test = "n{$n}_t"
  set n_gold = "n{$n}_g"
  if mismatch(v($n_test), v($n_gold), 1e-9)
    let v_test = v($n_test)
    let v_gold = v($n_gold)
    echo "ERROR, test failure, v($n_test) = $&v_test but should be $&v_gold"
    let fail_count = fail_count + 1
  end
  let total_count = total_count + 1
end

if fail_count > 0
  echo "ERROR: $&fail_count of $&total_count tests failed"
  quit 1
else
  echo "INFO: $&fail_count of $&total_count tests failed"
  quit 0
end

.endc

.end
